US04255152
2-Benzyl-4-chlorophenol (43.7 parts) is propoxylated with propylene oxide (12.6 parts) using sodium hydroxide (0.2 part) as catalyst at 145° C. in a manner similar to that used in Example 10 to give 1-(2-benzyl-4-chlorophenoxy)propan-2-ol (16.3 parts)

reactant | 2-Benzyl-4-chlorophenol | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C13H11ClO
reactant | propylene oxide | C1C(C)O1 | C3H6O
catalyst | sodium hydroxide | [OH-].[Na+]
product | 1-(2-benzyl-4-chlorophenoxy)propan-2-ol | C(C1=CC=CC=C1)C1=C(OCC(C)O)C=CC(=C1)Cl | C16H17ClO2
